* Z:\home\grzegorz\Studia\DiplomaThesis\STM32-PLC\Documentation\LTspiceSims\DigitalInSim\digital_input.asc
V1 IN 0 PULSE(0 24 10ms 0.5ms 0.5ms 2ms 10ms)
M1 IN N005 N002 N002 FDS6685
R1 N005 0 47k
D1 N005 N002 BZX84B9V1LY
R2 N003 N002 1k
V2 N001 0 3.3
C1 N003 0 1n
R3 N001 N004 1k
R4 N006 0 270k
C2 N006 0 470p
XU1 N003 0 N004 OUT N006 CNY17 Igain=.724m
R5 OUT N007 47k
D2 N007 0 NSCW100
.model D D
.lib C:\users\grzegorz\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\grzegorz\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100ms startup
.lib CNY17.sub
.backanno
.end
